US07741327B2
To a solution of 2-[4-(2,6-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-3-(1-fluoro-cyclopentyl)-propionic acid ethyl ester (0.440 g, 1.11 mol) in tetrahydrofuran:water (1:1, 10 mL) was added lithium hydroxide monohydrate (0.140 g 3.34 mmol). The mixture was stirred at room temperature for 2 h. The reaction mixture was poured into water and washed with diethyl ether and the diethyl ether layer discarded. The aqueous phase was acidified with 1N aqueous hydrochloric acid (pH <2), and extracted with ethyl acetate (2×30 mL). The combined ethyl acetate layers were dried over magnesium sulfate, filtered and concentrated to afford 2-[4-(2,6-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-3-(1-fluoro-cyclopentyl)-propionic acid, (0.358 g, 88%) as a yellow solid: 1H NMR (300 MHz, DMSO-d6) δ ppm 1.64 (br. s., 8H), 2.34 (dd, J=22.6, 6.9 Hz, 2H), 4.23 (d, J=18.4 Hz, 1H), 4.31 (d, J=18.4 Hz, 1H), 4.84 (t, J=6.9 Hz, 1H), 5.05 (s, 1H), 7.26-7.55 (m, 3H), 13.05 (br. s., 1H).

reactant | 2-[4-(2,6-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-3-(1-fluoro-cyclopentyl)-propionic acid ethyl ester | 1.11 mol, 0.440 g | C(C)OC(C(CC1(CCCC1)F)N1C(C=C(C1)OC1=C(C=CC=C1F)F)=O)=O | C20H22F3NO4
reactant | lithium hydroxide monohydrate | 3.34 mmol, 0.140 g | O.[OH-].[Li+]
reactant | water | O | H2O
solvent | tetrahydrofuran water | 10 mL | O1CCCC1.O
product | 2-[4-(2,6-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-3-(1-fluoro-cyclopentyl)-propionic acid | 0.358 g, 88% | FC1=C(OC2=CC(N(C2)C(C(=O)O)CC2(CCCC2)F)=O)C(=CC=C1)F | C18H18F3NO4
